Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
HiDAC
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___
male with history of intermediate-risk cytogenetics and 
favorable
risk AML (normal karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-)
in ___ remission after successful induction 7+3 chemotherapy who
presents for C3 of HiDAC consolidation therapy.
His ___ cycle of HIDAC was complicated by relatively prolonged
neutropenia along with fever and subsequent ___ abscess.
During his C2, he developed hypersensitivity that was attributed
to cytarabine which all resolved with pre-medications. Following
C2, he was admitted briefly for fever in the setting of PRBCs
transfusion. Otherwise, he has been doing well. He will receive  

Neulasta again on D9 of treatment to help reduce duration of
neutropenia and infection risk.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
___ INITIAL BM/BXAML
___ Consented to protocol ___ INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2) (RHP: +NPM1, +IDH2,+ RAD21)
___ D+14 BMBx ablated, 
___ D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ C2D1 HIDAC

PAST MEDICAL HISTORY (per OMR):
AS ABOVE
 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: TC 98.0 133/73 72 18 99%RA 
WT: 211 LBS
GEN: well-appearing man, pleasant, conversive, and interactive.
HEENT: anicteric sclerae. MM moist and pink. 
LYMPH: no adenopathy in cervical, submandibular, submental,
___ chains
LUNGS: clear bilaterally, non-labored.
HEART: normal rate, regular rhythm, no m/r/g
ABDOMEN: soft, non-tender/non-distended, NABS. no splenomegaly
EXTREMITIES: warm. no petechiae or skin rash
RECTAL: inspection notable for absence of abscess or ___
skin irritation/ulceration. Small non-inflamed external
hemorrhoids present.
ACCESS: POC C/D/I

DISCHARGE PHYSICAL EXAM:
VS: TC 98.0 126/80 65 18 100%RA 
WT: 206.1LBS
GEN: well-appearing man, pleasant, conversive, and interactive.
HEENT: anicteric sclerae. MM moist and pink. 
LYMPH: no adenopathy in cervical, submandibular, submental,
___ chains
LUNGS: clear bilaterally, non-labored.
HEART: normal rate, regular rhythm, no m/r/g
ABDOMEN: soft, non-tender/non-distended, NABS. no splenomegaly
EXTREMITIES: warm. no petechiae or skin rash
ACCESS: POC C/D/I
NEURO: PERRLA EOMI no nystagmus rapid hand movements intact
finger to nose intact, tandem gait appropriate
 
Pertinent Results:
___ 12:00AM BLOOD WBC-3.1*# RBC-2.78* Hgb-9.2* Hct-29.0* 
MCV-104* MCH-33.1* MCHC-31.7* RDW-19.3* RDWSD-74.4* Plt ___
___ 09:40AM BLOOD WBC-6.3 RBC-2.82* Hgb-9.4* Hct-30.0* 
MCV-106* MCH-33.3* MCHC-31.3* RDW-22.7* RDWSD-86.7* Plt ___
___ 12:00AM BLOOD Neuts-95.5* Lymphs-2.3* Monos-1.3* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-2.95# AbsLymp-0.07* 
AbsMono-0.04* AbsEos-0.00* AbsBaso-0.01
___ 09:40AM BLOOD Neuts-27* Bands-0 Lymphs-60* Monos-12 
Eos-0 Baso-1 ___ Myelos-0 AbsNeut-1.70 AbsLymp-3.78* 
AbsMono-0.76 AbsEos-0.00* AbsBaso-0.06
___ 12:00AM BLOOD Glucose-157* UreaN-18 Creat-0.6 Na-141 
K-4.4 Cl-101 HCO3-25 AnGap-15
___ 09:40AM BLOOD UreaN-9 Creat-0.6 Na-143 K-4.4 Cl-106 
HCO3-27 AnGap-10
___ 12:00AM BLOOD ALT-34 AST-22 LD(LDH)-142 AlkPhos-54 
TotBili-0.5
___ 09:40AM BLOOD ALT-26 AST-24 AlkPhos-64 TotBili-0.3
___ 12:00AM BLOOD Albumin-3.8 Calcium-8.6 Phos-4.1 Mg-2.0
___ 09:40AM BLOOD TotProt-6.0* Albumin-4.0 Globuln-2.0 
Calcium-9.1 Phos-3.4 Mg-2.___ is a ___ year old male with
intermediate-risk cytogenetics and favorable risk AML (normal
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission
presenting for C3 of HiDAC consolidation therapy.

ACUTE ISSUES:
=============

#AML (+NPM1, +IDH2,+ RAD21): Considered favorable risk based on
IDH2 and NPM1 status, although presence of RAD21 not
well-understood. He did achieve MRD negative status based on his
negative NPM1 by PCR testing and is considered favorable AML.
Given hypersensitivity he developed during C2, he will receive
additional IV dexamethasone q12hrs x 6 doses on D1, D3 and D5. 
-Cytarabine 6480 mg IV Q12H on Days 1, 3 and 5. ___ and ___ mg/m2) 
-Cerebellar testing prior to each dose of cytarabine
-IVF/Antiemetics per protocol 
-Neulasta following chemotherapy completion on ___ then 
f/u scheduled ___
-When ANC < 500, will initiate prophylaxis with ciprofloxacin,
voriconazole and flagyl given prior ___ abscess during C1

CHRONIC/RESOLVED ISSUES:
========================

#Perianal abscess s/p I&D: Resolved. 

#Marijuana Use: Continues although he is using vaporizer, will
need to take prophylactic voriconazole during his neutropenic
periods.

FEN: Regular/IVF/Encourage PO/Replete Electrolytes PRN
PPX: Refusing Lovenox PPX
ACCESS: POC
CODE: Full Code 
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: ___ (ex-wife/HCP) 
___
(home) ___ (cell)
DISPO: home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
2. Vitamin D ___ UNIT PO DAILY 
3. Voriconazole 200 mg PO Q12H 
4. Ciprofloxacin HCl 500 mg PO Q12H 
5. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  Pegfilgrastim 6 mg SC ONCE Duration: 1 Dose  
2.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
continue through ___ then stop  
3.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive your third cycle of consolidation 
therapy (HIDAC) as part of your leukemia treatment and you 
tolerated this well. You will receive your neulasta injection 
and follow up with Dr. ___ as below. It was a pleasure 
taking care of you.
 
Followup Instructions:
___